data/specific_train_final.csv
"[H:20][C:21]1(C=CC=C([C:22]1O)C(C)C)O.[O:10][O]>>[H:20][O:10][O].CC(C)C1=CC=C[C:21](=[C:22]1O)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CCOC[C:10]=O.[O:20][O]>>CCOC[C:10](=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C(C)[O:20])O.[N+:10](=O)[O-]>>CCCC(C(C)[O:20][N+:10](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:4][CH2:3][C:2](=[CH2:1])[CH:5]=[CH2:6].[Cl:7]>>[H:4][Cl:7].[CH2:6]=[CH:5][C:2](=[CH2:1])[CH2:3] 3,4-4,7;3,4-3;7-4,7",Room Temperature,Propagation,abstraction
"CC(=O)C(CO)O[O:20].[N:10]=O>>CC(=O)C(CO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)CCC(C)[O:20][O:21][O]>>CC(C)CCC(C)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(O[O:20])(Cl)Cl)(Cl)Cl.[N:10]=O>>C(C(O[O:20][N:10]=O)(Cl)Cl)(Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCC(C)(CC)O[O:10]>>[H:20][O:10]OC(C)(CC)CC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC(C)(C)CCO[O:10]>>[H:20][O:10]OCCC(C)(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(C=CC[O:20][O:21]N=O)O>>C(C=CC[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:12][CH2:11][CH:9]([CH3:10])[CH2:8][CH:6]([CH3:7])[O:5][O:4][O:3][N+:2](=[O:1])[O-:13]>>[CH3:12][CH2:11][CH:9]([CH3:10])[CH2:8][CH:6]([CH3:7])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:13] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"[CH3:12][CH2:11][CH2:10][CH2:9][C:6]([CH3:7])([CH3:8])[O:5][O:4][O:3][N+:2](=[O:1])[O-:13]>>[CH3:12][CH2:11][CH2:10][CH2:9][C:6]([CH3:7])([CH3:8])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:13] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CC1([O:20][O:21]2)[C:10](C)C=CC2C1O>>CC1([O:20]2)[C:10]2(C)C=CC([O:21])C1O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:20][O:21][O].C(C(O[O:10])Cl)O[N+](=O)[O-]>>[H:20][O:10]OC(CO[N+](=O)[O-])Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:12][O:11][CH:8]([CH:3]([C:2]([CH3:1])([CH2:14][O:15][O:16][H:17])[OH:13])[O:4][N+:5](=[O:7])[O-:6])[O:9][O:10]>>[H:12][O:11][CH:8]([CH:3]([C:2]([CH3:1])([CH2:14][O:15][O:16][H:17])[OH:13])[O:4][N+:5](=[O:7])[O-:6]).[O:9][O:10] 8,9-8;8,9-9",Room Temperature,Initiation,homolyze
CC(=O)OC[O:20].[N:10](=O)[O:21]>>CC(=O)OC[O:20].[N+:10](=O)[O-:21] 10-21,Room Temperature,Propagation,ha resonance
"CCC(C)(CO)[O:20][O:21][O]>>CCC(C)(CO)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C([O:20][O:21][O])(Cl)Cl)(O)Cl>>C(C([O:20])(Cl)Cl)(O)Cl.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=O)OC(C)(C)[CH2:10].[O:20][O]>>CC(=O)OC(C)(C)[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(Cl)(Cl)Cl)[O:21][O:20][O].[N+](=O)[O-]>>C(C(Cl)(Cl)Cl)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(O[O:20])Cl)Cl.[N+](=O)([O-])[O:10]>>C(C(O[O:20][O:10][N+](=O)[O-])Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)(OC(=O)C)[O:20][O:21][O].[N+](=O)[O]>>CCC(C)([O:20])OC(=O)C.[N+](=O)[O].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC([CH:10]OC)O.[O:20][O]>>CC([CH:10](OC)[O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C(C)O)O[O:20].[N:10]=O>>CCCC(C(C)O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:9][C:3]([CH:4]=[O:5])([C:2]([CH3:1])([CH2:12][O:13][N+:14](=[O:16])[O-:15])[O:10][O:11])[O:6][O:7][H:8]>>[H:9][C:3]([CH:4]=[O:5])([C:2]([CH3:1])([CH2:12][O:13][N+:14](=[O:16])[O-:15])[O:10][O:11][H:8])[O:6][O:7] 7,8-7; 11-11,8; 7,8-11,8",Room Temperature,Propagation,abstraction
"CCCC(CO)O[O:20].[N+](=O)([O-])[O:10]>>CCCC(CO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
CCCC([O])OCCO.O=[N:10][O:20]>>O=[N+:10][O-:20].CCCC([O])OCCO 10-20,Room Temperature,Propagation,ha resonance
"C(CCl)OO[O:20][N+:21](=O)[O-]>>C(CCl)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[CH3:9][CH2:8][CH2:7][CH2:6][CH:5]([CH3:10])[O:4].[N:2](=[O:3])[O:1]>>[CH3:9][CH2:8][CH2:7][CH2:6][CH:5]([CH3:10])[O:4].[N+:2](=[O:3])[O-:1] 2-1,Room Temperature,Propagation,ha resonance
"[H:20][C:21](=O)CO.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].C([C:21]=O)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1=C(C([CH:10]C=C1)O)C.[O:20][O]>>CC1=C(C([CH:10](C=C1)[O:20][O])O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=CC(=CC=C1)C[O:20].[N+:10](=O)[O-]>>CC1=CC(=CC=C1)C[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[O-][N+:2]=O.C=C(C)C(CO)O[O:1]>>C=C(C)C(CO)O[O:1][N+:2]([O-])=O 1-1,2;2-2,1",Room Temperature,Termination,recombine
